US06960609B2
B. N,N-Diethyl-4-[[4-(4-fluorophenyl)-3,5-dimethylpyrazol-1-yl]-(3-methoxyphenyl)-methyl]-benzamide
To a stirring solution of N,N-Diethyl-4-[(4-iodo-3,5-dimethyl-pyrazol-1-yl)-(3-methoxy-phenyl)-methyl]-benzamide (145 mg, 0.281 mmol) in 20 Ml EtOH/H2O (9:1) at room temperature was added 4-fluorobenzene boronic acid (118 mg, 0.842 mmol), Na2CO3 (90.0 mg, 0.842 mmol) and tetrakis(triphenylphosphine) palladium (0) (30.0 mg, 0.005 mmol). The mixture was cooled to −78° C., de-oxygenated under reduced pressure and purged with nitrogen gas. The mixture was refluxed for 2 hours, cooled to room temperature, filtered through a Celite pad and concentrated under reduce pressure. Purification of the crude material was accomplished by flash chromatography on a 2×15 cm column, eluting with 30% ethyl acetate/hexanes, collecting 8 Ml fractions. The product containing fractions were collected and concentrated to give the desired product (120 mg, 88%) as a clear colorless solid. 300 MHz 1H NMR (CDCl3) δ 7.33 (d, J=8.3 Hz, 2H), 7.16-7.23 (m, 5H), 7.04-7.15 (m, 2H), 6.71-6.84 (m, 3H), 6.55 (s, 1H), 3.74 (s, 3H), 3.52 (br s, 2H), 3.27 (br s, 2H), 2.19 (s, 3H), 2.16 (s, 3H), 1.21 (br s, 3H), 1.09 (br s, 3H), MS (M+1) 486.2.

reactant | N,N-Diethyl-4-[(4-iodo-3,5-dimethyl-pyrazol-1-yl)-(3-methoxy-phenyl)-methyl]-benzamide | 0.281 mmol, 145 mg | C(C)N(C(C1=CC=C(C=C1)C(C1=CC(=CC=C1)OC)N1N=C(C(=C1C)I)C)=O)CC | C24H28IN3O2
reactant | 4-fluorobenzene boronic acid | 0.842 mmol, 118 mg | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | Na2CO3 | 0.842 mmol, 90.0 mg | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine) palladium (0) | 0.005 mmol, 30.0 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | EtOH H2O | CCO.O
product | N,N-Diethyl-4-[[4-(4-fluorophenyl)-3,5-dimethylpyrazol-1-yl]-(3-methoxyphenyl)-methyl]-benzamide | 120 mg, 88% | C(C)N(C(C1=CC=C(C=C1)C(C1=CC(=CC=C1)OC)N1N=C(C(=C1C)C1=CC=C(C=C1)F)C)=O)CC | C30H32FN3O2
